US07282588B2
4-bromo-1-(phenylsulfonyl)-2-(3-pyridinyl)-1H-pyrrolo[2,3-b]pyridine
A solution of 4-bromo-2-iodo-1-(phenylsulfonyl)-2-(3-pyridinyl)-1H-pyrrolo[2,3-b]pyridine (0.44 mmol), 3-pyridinyl boronic acid (0.35 mmol) and tetrakis(triphenylphosphine) palladium(0) (0.013 mmol) in a 4:1 solution of 1,4-dioxane (4 mL):saturated sodium carbonate (1 mL) was stirred for 18 h at 100° C. in a sealed tube. After concentrated in vacuo, the residue was partitioned between ethyl acetate (5 mL) and water (5 mL). The organic layer was washed with brine (1×5 mL), dried over magnesium sulfate, and concentrated. Purification by flash chromatography (0-20% ethyl acetate/dichloromethane) provided the title compound as a yellow oil (50%). ESMS [M+H]+: 414.8.

reactant | 4-bromo-2-iodo-1-(phenylsulfonyl)-2-(3-pyridinyl)-1H-pyrrolo[2,3-b]pyridine | 0.44 mmol | BrC1=C2C(=NC=C1)N(C(C2)(C=2C=NC=CC2)I)S(=O)(=O)C2=CC=CC=C2 | C18H13BrIN3O2S
reactant | 3-pyridinyl boronic acid | 0.35 mmol | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 1 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.013 mmol | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 4-bromo-1-(phenylsulfonyl)-2-(3-pyridinyl)-1H-pyrrolo[2,3-b]pyridine | 50% | BrC1=C2C(=NC=C1)N(C(=C2)C=2C=NC=CC2)S(=O)(=O)C2=CC=CC=C2 | C18H12BrN3O2S
